US04774235
In substantial accordance with the procedure described in Example 1(2), dineophyl-di(3-thienyl)tin (80 g, 0.145 mol) obtained above was reacted with bromine to give crude dineophyl-3-thienyltin bromide, which was then reacted with sodium fluoride. The resulting product was recrystallized from n-hexane to provide 21.5 g of dineophyl-3-thienyltin fluoride as a white solid.

reactant | dineophyl-di(3-thienyl)tin | 0.145 mol, 80 g | C(C(C)(C)C1=CC=CC=C1)[Sn](C1=CSC=C1)(C1=CSC=C1)CC(C)(C)C1=CC=CC=C1
reactant | bromine | BrBr | Br2
product | dineophyl-3-thienyltin bromide | C(C(C)(C)C1=CC=CC=C1)[Sn](C1=CSC=C1)(CC(C)(C)C1=CC=CC=C1)Br | InChI=1S/2C10H13.C4H3S.BrH.Sn/c2*1-10(2,3)9-7-5-4-6-8-9;1-2-4-5-3-1;;/h2*4-8H,1H2,2-3H3;1,3-4H;1H;/q;;;;+1/p-1
